US06107458
To a suspension of 4-Methoxycarbonylphenyl boronic acid (648 mg) and 4-iodo-1-heptylpyrazole (876 mg) and Pd(PPh3)4 (173 mg) in 1,2-dimethoxyethane (10 ml) was added 2M Na2CO3 aq. (3.6 ml). The reaction mixture was stirred at 80° C. for 2 hours under N2 atmosphere, and poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, and dried over MgSO4. The solvent was removed under pressure. The residue was subjected to column-chromatography on silica gel 60 (Merk) and eluted with n-hexane/ethyl acetate (80:20). The fractions containing the object compound were combined and evaporated under reduced pressure to give 1-heptyl-4-(4-methoxycarbonylphenyl)pyrazole (0.20 g).

reactant | 4-Methoxycarbonylphenyl boronic acid | 648 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | 4-iodo-1-heptylpyrazole | 876 mg | IC=1C=NN(C1)CCCCCCC | C10H17IN2
reactant | Na2CO3 | 2M, 3.6 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-heptyl-4-(4-methoxycarbonylphenyl)pyrazole | 0.20 g | C(CCCCCC)N1N=CC(=C1)C1=CC=C(C=C1)C(=O)OC | C18H24N2O2
